US05942538
Preparation of N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine
In 100 ml of DMF was dissolved 26.6 g of 2-fluoro-6-trifluoromethylbenzamidoxime and 17.8 g of cyclopropylmethylbromide, and to the solution was added 4.8 g of sodium hydride (60% in oil) at 10° C. over 30 min. The solution was then stirred for 3 hours, and the solution reacted was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography to obtain 24.8 g of the objective compound. m.p. 63-64° C.

reactant | 2-fluoro-6-trifluoromethylbenzamidoxime | 26.6 g | FC1=C(C(N)=NO)C(=CC=C1)C(F)(F)F | C8H6F4N2O
reactant | cyclopropylmethylbromide | 17.8 g | C1(CC1)CBr | C4H7Br
reactant | sodium hydride | 4.8 g | [H-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine | 24.8 g | C1(CC1)CON=C(C1=C(C=CC=C1C(F)(F)F)F)N | C12H12F4N2O
